US07737166B2
N-(5-Cyano-2-fluoro-4-methoxybiphenyl-3-yl)-2,2,2-trifluoroacetamide (I-233)
5-Amino-6-fluoro-4-methoxybiphenyl-3-carboxamide (I-232) (2.28 g, 8.76 mmol) was dissolved in tetrahydrofuran (36 ml), and at 0° C., a solution of triethylamine (4.88 ml, 35.04 mmol) and trifluoroacetic anhydride (3.71 ml, 26.28 mmol) dissolved in tetrahydrofuran (10 ml) was gradually added. After stirring at 0° C. for 2 hours, water (46 ml) was added, followed by vigorously stirring for 5 minutes. Tetrahydrofuran was evaporated away under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=4:1) to obtain the entitled compound (2.782 g, 94%) as a white solid.

reactant | 5-Amino-6-fluoro-4-methoxybiphenyl-3-carboxamide | 8.76 mmol, 2.28 g | NC=1C(=C(C=C(C1F)C1=CC=CC=C1)C(=O)N)OC | C14H13FN2O2
reactant | triethylamine | 35.04 mmol, 4.88 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 26.28 mmol, 3.71 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 46 ml | O | H2O
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(5-Cyano-2-fluoro-4-methoxybiphenyl-3-yl)-2,2,2-trifluoroacetamide | 2.782 g, 94% | C(#N)C=1C(=C(C(=C(C1)C1=CC=CC=C1)F)NC(C(F)(F)F)=O)OC | C16H10F4N2O2
